US07446222B2
a) Ethyl 5-{2′-[(phenylmethyl)oxy]-2-biphenylyl}-3-pyridinecarboxylate
A mixture of ethyl 5-bromonicotinate (46 mg, 0.2 mmol), {2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid (61 mg, 0.2 mmol), potassium carbonate (221 mg, 1.6 mmol) and tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol) was stirred and heated at 90° C. under nitrogen for 2 hours. After cooling the mixture was diluted with ether/water and the organic phase dried (magnesium sulphate), evaporated and chromatographed on silica eluting with ethyl acetate/iso-hexane (1:5) to give 66 mg of colourless gum.

reactant | ethyl 5-bromonicotinate | 0.2 mmol, 46 mg | BrC=1C=NC=C(C(=O)OCC)C1 | C8H8BrNO2
reactant | {2′-[(phenylmethyl)oxy]-2-biphenylyl}boronic acid | 0.2 mmol, 61 mg | C1(=CC=CC=C1)COC1=C(C=CC=C1)C1=C(C=CC=C1)B(O)O | C19H17BO3
reactant | potassium carbonate | 1.6 mmol, 221 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ether water | CCOCC.O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 5-{2′-[(phenylmethyl)oxy]-2-biphenylyl}-3-pyridinecarboxylate | 66 mg | C1(=CC=CC=C1)COC1=C(C=CC=C1)C1=C(C=CC=C1)C=1C=C(C=NC1)C(=O)OCC | C27H23NO3
